US05420126
In 4 ml of methylene chloride was dissolved 0.35 g of 4-amino-3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazine and the solution was cooled on an ice bath. To this solution was added 0.16 g of triethylamine followed by dropwise addition of a solution of 0.18 ml of 4-chlorobutyryl chloride in 1.4 ml of methylene chloride. After 30 minutes, the reaction mixture was diluted with water and extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The concentrate was crystallized from ether to give 0.43 g of crude crystals of 4-chloro-N-(3,4-dihydro-2,2-dimethyl-6-nitro- 2H-1,4-benzoxazin-4-yl)butyrylamide. The crude crystals were used without purification in the next reaction. (4) In 8 ml of N,N-dimethylformamide was dissolved 0.41 g of the above amide and the solution was cooled on an ice bath. Then, 0.14 g of potassium tert-butoxide was gradually added. The mixture was stirred with ice-cooling for 1 hour, after which it was diluted with water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure and crystallized from ether. The crude crystals were recrystallized from ethanol to give 0.16 g of 3,4-dihydro-2,2-dimethyl-4-(2-oxo-1-pyrrolidinyl)-6-nitro-2H-1,4-benzoxazine.

reactant | 4-amino-3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazine | 0.35 g | NN1CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(C)C | C10H13N3O3
reactant | triethylamine | 0.16 g | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobutyryl chloride | 0.18 ml | ClCCCC(=O)Cl | C4H6Cl2O
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.4 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3,4-dihydro-2,2-dimethyl-4-(2-oxo-1-pyrrolidinyl)-6-nitro-2H-1,4-benzoxazine | 0.16 g | CC1(OC2=C(N(C1)N1C(CCC1)=O)C=C(C=C2)[N+](=O)[O-])C | C14H17N3O4
